US04913837
46 ml of a 2.2 molar solution of phenyllithium in cyclohexane/diethyl ether (7:3) are added with ice cooling to a solution of 14.9 g of 5-butyl-2-picoline in 50 ml of diethyl ether. After 1 hour of stirring, 15.9 g of 4-ethoxybenzyl chloride in 50 ml of diethyl ether are then added at room temperature, and the ether starts to boil. The reaction mixture is poured onto ice after 1 hour, and the organic phase is worked up. Separation by column chromatography (silica gel, toluene) and recrystallization gives 2-(p-ethoxyphenylethyl)-5-butylpyridine.

reactant | phenyllithium | C1(=CC=CC=C1)[Li]
reactant | 5-butyl-2-picoline | 14.9 g | C(CCC)C=1C=CC(=NC1)C | C10H15N
reactant | 4-ethoxybenzyl chloride | 15.9 g | C(C)OC1=CC=C(CCl)C=C1 | C9H11ClO
solvent | cyclohexane diethyl ether | C1CCCCC1.C(C)OCC
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | ether | CCOCC | C4H10O
product | 2-(p-ethoxyphenylethyl)-5-butylpyridine | C(C)OC1=CC=C(C=C1)CCC1=NC=C(C=C1)CCCC | C19H25NO
